US05952355
Substantially the same procedure as in Process 1 of Example 48 was repeated using 3,4,5-trimethoxybenzaldehyde (3.92 g) and butyl lithium (1.56M hexane solution, 15 ml) to give 1-(3,4,5-trimethoxyphenyl)-1-pentanone (2.84 g).

reactant | 3,4,5-trimethoxybenzaldehyde | 3.92 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | butyl lithium | 1.56M, 15 ml | C(CCC)[Li]
product | 1-(3,4,5-trimethoxyphenyl)-1-pentanone | 2.84 g | COC=1C=C(C=C(C1OC)OC)C(CCCC)=O | C14H20O4
